2102-02-11 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient transfused 2 units and bumped appropriately
   - Hct settled to 25 for now
   - Sweet EJ IV placed overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-10**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-11**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 67 (67 - 95) bpm
   BP: 122/42(62) {96/41(54) - 132/80(84)} mmHg
   RR: 15 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,196 mL
                                                                    603 mL
   PO:
             TF:
   IVF:
                                                                    446 mL
                                                                    603 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    490 mL
                                                                    280 mL
   Urine:
                                                                    490 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    706 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General: Alert, mild distress, pale
   HEENT: Sclera anicteric, dry mm, circular ulcerative lesions on
   posterior pharynx with surronding erythema
   Neck: supple, JVP flat no LAD
   Lungs: crackles bilaterally approx [**1-13**] way up posterior lung [**Last Name (un) 3773**]
   CV: quiet heart sounds, RRR no apprec m/r/g
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, distal pulses palpable, no edema
   Labs / Radiology
   136 K/uL
   9.1 g/dL
   145 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.3 mEq/L
   27 mg/dL
   100 mEq/L
   134 mEq/L
   25.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2102-2-10**]  03:56 PM
                             [**2102-2-10**]  09:47 PM
                             [**2102-2-11**]  04:00 AM
   WBC
   12.0
   9.7
   Hct
   29.1
   26.9
   25.2
   Plt
   181
   136
   Cr
   0.9
   0.8
   Glucose
   152
   145
   Other labs: PT / PTT / INR:11.4/20.7/0.9, ALT / AST:25/52, Alk Phos / T
   Bili:56/1.2, Amylase / Lipase:157/91, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   86 F with PMHx of COPD on home O2 with recent COPD flare who is being
   transferred back to the ICU for GI bleed and hct drop to 19.
   .
   #GI bleed: Pt with a known h/o PUD, now with acute hct drop, abd pain x
   3 days and black stool.  Suspect upper GI bleed, possible ulcer vs
   ulcerative esophagitis.  Abd exam benign, though amylase/lipase
   elevated, less likely due to pancreatitis. Given resp issues, code
   status and relative hemodynamic stability, will hold off on EGD for now
   per GI. Plan for aggressive resuscitation and trending hct. GI avail
   for scope if pt does not respond appropriately to transfusions.
   - transfuse 2u prbcs now
   - f/u post transfusion hct, consider lasix with 3rd unit
   - place and maintain 2 PIVs
   - NPO with IVF
   - foley in place, monitor i/os
   - Protonix 40mg IV BID
   - GI consulted & following
   - f/u tid hct
   - treating pharyngitis as below
   - Send H pylori
   .
   # Pharyngitis: Pt describing 2-3 days of severe sore throat.  Throat
   culture was positive for HSV and ulcerative lesions visible on
   posterior pharynx c/w HSV pharyngitis.  It is unclear if this tracks
   down esophagus and is the source of bleeding.  Staph likely colonizer.
   - start Valtrex 1000mg [**Hospital1 **] (renally dosed)
   - viscous lidocaine prn
   - NPO for now
   .
   # Trop leak: This was likely due to demand ischemia in setting of
   hypoxia and tachycardia.  EKGs essentially unchanged from prior and pt
   denying any CP.  Aspirin may have worsened PUD and precipitated GI
   bleed.
   - avoid Aspirin given GI bleed
   - hold off on betablockade given volume loss
   - monitor symptomatically for now
   .
   # Dyspnea: Pt initially transferred on [**1-30**] with COPD exacerbation and
   possible flash pulm edema, complicated by demand ischemia and small
   troponin leak.  Hypoxia improving, pt now sating well on home 02.
   Currently on a slow steroid taper.  Crackles on exam likely at
   baseline, neck veins and exam suggest that pt is dry to euvolemic
   - standing Xopenex/ipratrop nebs
   - prednisone 20mg x 1 more day, then prednisone 10mg x 4 days
   - supplemental O2, goal sats in <94%
   - would likely need intubation for EGD, but pt wishes DNI
   - monitor clinically for volume overload
   .
   # HTN: given GI bleed, hold all anti-hypertensives for now
   # FEN: NPO for now with IVF, blood products
   - replete lytes
   # Prophylaxis: Pneumoboots
   # Access: PIV x 1, will attempt to place 2nd u/s guided PIV
   # Code: DNR/DNI *confirmed, form in chart*
   # Communication: Patient, HCP Daughter [**Name (NI) 1076**] [**Telephone/Fax (1) 3774**]  Grandson
   [**Name (NI) 1071**] is a resident at NYU ([**Telephone/Fax (1) 3507**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-2-10**] 02:23 PM
   18 Gauge - [**2102-2-11**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-02-11 09:18:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   86 yo women with severe COPD, previously admitted to the MICU for
   respiratory failure, went to floor and had GIB - Hct 25 to 19, and then
   back to 25 with two units.  c/o some abdominal pain today.
   24 Hour Events:
 URINE CULTURE - At [**2102-2-10**] 03:34 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-10**] 08:02 PM
   Other medications:
   nebs (zopenex)
   advair
   valcyclovir
   prednisone 20mg (on a taper)]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: melena
   Flowsheet Data as of  [**2102-2-11**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 67 (67 - 95) bpm
   BP: 122/42(62) {96/41(54) - 132/80(84)} mmHg
   RR: 15 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,196 mL
                                                                    603 mL
   PO:
             TF:
   IVF:
                                                                    446 mL
                                                                    603 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    490 mL
                                                                    305 mL
   Urine:
                                                                    490 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    706 mL
                                                                    298 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tongue and pharyngeal ulcers
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   136 K/uL
   145 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.3 mEq/L
   27 mg/dL
   100 mEq/L
   134 mEq/L
   25.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2102-2-10**]  03:56 PM
                             [**2102-2-10**]  09:47 PM
                             [**2102-2-11**]  04:00 AM
   WBC
   12.0
   9.7
   Hct
   29.1
   26.9
   25.2
   Plt
   181
   136
   Cr
   0.9
   0.8
   Glucose
   152
   145
   Other labs: PT / PTT / INR:11.4/20.7/0.9, ALT / AST:25/52, Alk Phos / T
   Bili:56/1.2, Amylase / Lipase:157/91, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.8 mg/dL
   Microbiology: + swab for HSV-1, Staph aureus
   Assessment and Plan
   GIB with melena:  Continue PPI.  Follow up on whether she's been tested
   or treated for H. pylori.  Hold ASA.  Keep NPO for now.
   COPD:  Respiratory status stable.  Continue steroid taper.
   Anemia:  Hct responded appropriately.  Follow Hct today.
   Oral ulcers:  treating for HSV.
   Thrombocytopenia:  Continue to follow from now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-2-10**] 02:23 PM
   18 Gauge - [**2102-2-11**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-02-12 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started magic mouthwash for pain
   - Tolerating soft dysphagia diet
   - GI not planning on doing scope
   - Hct have been stable
   - Gave maintenance IVfluids during the day with good UOP
   - Amylase and Lipase increased from previous, consider RUQ US in AM
   - Pt awoke at 2am with chest pain radiating to her back and neck.  An
   EKG did not show signs of ST changes.  Cardiac enzymes were sent to
   ROMI, however most likely secondary to pancreatitis or PUD.
 CHEST PAIN - At [**2102-2-12**] 02:16 AM
   c/o chest->back pain radiating to left neck. resolved in seconds with
   no intervention. ? PUD. EKG unchanged
 EKG - At [**2102-2-12**] 02:18 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-11**] 07:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-12**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (96.9
   HR: 75 (67 - 82) bpm
   BP: 116/44(59) {92/36(50) - 159/63(82)} mmHg
   RR: 16 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,793 mL
                  PO:
                                                                    180 mL
                  TF:
   IVF:
                                                                  1,613 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    770 mL
   Urine:
                                                                  1,045 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    748 mL
                                                                   -770 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General: Alert, mild distress, pale
   HEENT: Sclera anicteric, dry mm, circular ulcerative lesions on
   posterior pharynx with surronding erythema
   Neck: supple, JVP flat no LAD
   Lungs: crackles bilaterally approx [**1-13**] way up posterior lung [**Last Name (un) 3773**]
   CV: quiet heart sounds, RRR no apprec m/r/g
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, distal pulses palpable, no edema
   Labs / Radiology
   248 K/uL
   10.1 g/dL
   88 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   12 mg/dL
   106 mEq/L
   138 mEq/L
   29.1 %
   8.3 K/uL
        [image002.jpg]
                             [**2102-2-10**]  03:56 PM
                             [**2102-2-10**]  09:47 PM
                             [**2102-2-11**]  04:00 AM
                             [**2102-2-11**]  09:42 AM
                             [**2102-2-11**]  03:49 PM
                             [**2102-2-11**]  09:30 PM
                             [**2102-2-12**]  03:45 AM
   WBC
   12.0
   9.7
   8.3
   Hct
   29.1
   26.9
   25.2
   27.7
   28.8
   30.3
   29.1
   Plt
   181
   136
   207
   225
   248
   Cr
   0.9
   0.8
   0.7
   TropT
   0.07
   Glucose
   152
   145
   88
   Other labs: PT / PTT / INR:11.5/26.8/1.0, CK / CKMB /
   Troponin-T:45//0.07, ALT / AST:25/52, Alk Phos / T Bili:56/1.2, Amylase
   / Lipase:217/123, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   86 F with PMHx of COPD on home O2 with recent COPD flare who is being
   transferred back to the ICU for GI bleed and hct drop to 19.
   .
   #GI bleed: Pt with a known h/o PUD, now with acute hct drop, abd pain x
   3 days and black stool.  Suspect upper GI bleed, possible ulcer vs
   ulcerative esophagitis.  Abd exam benign, though amylase/lipase
   elevated, less likely due to pancreatitis. Given resp issues, code
   status and relative hemodynamic stability, will hold off on EGD for now
   per GI. Plan for aggressive resuscitation and trending hct. GI avail
   for scope if pt does not respond appropriately to transfusions.
   - transfuse 2u prbcs now
   - f/u post transfusion hct, consider lasix with 3rd unit
   - place and maintain 2 PIVs
   - NPO with IVF
   - foley in place, monitor i/os
   - Protonix 40mg IV BID
   - GI consulted & following
   - f/u tid hct
   - treating pharyngitis as below
   - Send H pylori
   .
   # Pharyngitis: Pt describing 2-3 days of severe sore throat.  Throat
   culture was positive for HSV and ulcerative lesions visible on
   posterior pharynx c/w HSV pharyngitis.  It is unclear if this tracks
   down esophagus and is the source of bleeding.  Staph likely colonizer.
   - start Valtrex 1000mg [**Hospital1 **] (renally dosed)
   - viscous lidocaine prn
   - NPO for now
   .
   # Trop leak: This was likely due to demand ischemia in setting of
   hypoxia and tachycardia.  EKGs essentially unchanged from prior and pt
   denying any CP.  Aspirin may have worsened PUD and precipitated GI
   bleed.
   - avoid Aspirin given GI bleed
   - hold off on betablockade given volume loss
   - monitor symptomatically for now
   .
   # Dyspnea: Pt initially transferred on [**1-30**] with COPD exacerbation and
   possible flash pulm edema, complicated by demand ischemia and small
   troponin leak.  Hypoxia improving, pt now sating well on home 02.
   Currently on a slow steroid taper.  Crackles on exam likely at
   baseline, neck veins and exam suggest that pt is dry to euvolemic
   - standing Xopenex/ipratrop nebs
   - prednisone 20mg x 1 more day, then prednisone 10mg x 4 days
   - supplemental O2, goal sats in <94%
   - would likely need intubation for EGD, but pt wishes DNI
   - monitor clinically for volume overload
   .
   # HTN: given GI bleed, hold all anti-hypertensives for now
   # FEN: NPO for now with IVF, blood products
   - replete lytes
   # Prophylaxis: Pneumoboots
   # Access: PIV x 1, will attempt to place 2nd u/s guided PIV
   # Code: DNR/DNI *confirmed, form in chart*
   # Communication: Patient, HCP Daughter [**Name (NI) 1076**] [**Telephone/Fax (1) 3774**]  Grandson
   [**Name (NI) 1071**] is a resident at NYU ([**Telephone/Fax (1) 3507**].
 PANCREATITIS, ACUTE
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-2-10**] 02:23 PM
   18 Gauge - [**2102-2-11**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-02-12 11:46:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo women originally admitted for COPD flare.  Readmitted to MICU for
   GIB.  Melena has improved and Hct has been stable.
   24 Hour Events:
 CHEST PAIN - At [**2102-2-12**] 02:16 AM
   c/o chest->back pain radiating to left neck. resolved in seconds with
   no intervention. ? PUD. EKG unchanged
 EKG - At [**2102-2-12**] 02:18 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-12**] 08:00 AM
   Other medications:
   zoponex
   advair
   valcyclovir
   maalox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: episode of CP this morning resolved
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Emesis, No(t) Diarrhea
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-12**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 84 (67 - 84) bpm
   BP: 129/69(81) {112/37(55) - 159/69(82)} mmHg
   RR: 26 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,793 mL
                                                                    490 mL
   PO:
                                                                    180 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,613 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    905 mL
   Urine:
                                                                  1,045 mL
                                                                    905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    748 mL
                                                                   -415 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   248 K/uL
   88 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   12 mg/dL
   106 mEq/L
   138 mEq/L
   30.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2102-2-10**]  03:56 PM
                             [**2102-2-10**]  09:47 PM
                             [**2102-2-11**]  04:00 AM
                             [**2102-2-11**]  09:42 AM
                             [**2102-2-11**]  03:49 PM
                             [**2102-2-11**]  09:30 PM
                             [**2102-2-12**]  03:45 AM
                             [**2102-2-12**]  09:28 AM
   WBC
   12.0
   9.7
   8.3
   Hct
   29.1
   26.9
   25.2
   27.7
   28.8
   30.3
   29.1
   30.3
   Plt
   181
   136
   207
   225
   248
   Cr
   0.9
   0.8
   0.7
   TropT
   0.07
   0.05
   Glucose
   152
   145
   88
   Other labs: PT / PTT / INR:11.5/26.8/1.0, CK / CKMB /
   Troponin-T:42//0.05, ALT / AST:25/52, Alk Phos / T Bili:56/1.2, Amylase
   / Lipase:217/123, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Microbiology: H. pylori pending
   Assessment and Plan
   GIB:  stable Hct, no further melena.  Follow up on H. pylori.  Continue
   PPI
   COPD:  respiratory status is stable
   pharyngitis:  HSV, continue valtrex and magic mouthwash.
   PO Diet.
   Chest pain:  No EKG changes, troponins not increased.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-2-10**] 02:23 PM
   18 Gauge - [**2102-2-11**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes